US07262185B2
To a solution of 7-[4-(2-butoxyethoxy) phenyl]-1-isobutyl-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid (1.0 g) in THF (10 ml), thionyl chloride (0.25 ml) and DMF (1 droplet) were added at room temperature, and the mixture was stirred for 1.5 hours at room temperature. The solvent was concentrated under reduced pressure, and a solution of the residue in THF (25 ml) was added dropwise to a solution of 4-[[(1-trityl-1H-imidazol-1-yl)methyl]thio]aniline (1.13 g) in pyridine (10 ml) at 0° C. The mixture was stirred at room temperature for 20 hours, and water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The obtained residue was separated and purified by column chromatography (ethyl acetate:hexane 1:1), to give 7-[4-(2-butoxyethoxy) phenyl]-N-[4-[(1-trityl-1H-imidazol-4-yl) methyl]thio]phenyl]-1-isobutyl-2,3-dihydro-1H-1-benzazepine-4-carboxamide (1.43 g) as yellow crystals.

reactant | 7-[4-(2-butoxyethoxy) phenyl]-1-isobutyl-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid | 1.0 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2CC(C)C)C(=O)O)C1 | C27H35NO4
reactant | DMF | CN(C)C=O | C3H7NO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | thionyl chloride | 0.25 ml | S(=O)(Cl)Cl | Cl2OS
product | 1-isobutyl-2,3-dihydro-1H-1-benzazepine-4-carboxamide | 1.43 g | C(C(C)C)N1CCC(=CC2=C1C=CC=C2)C(=O)N | C15H20N2O
